US07691850B2
g) (±)-(3S,4S)/(3R,4R)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinecarboxamide
1,1-dimethylethyl[((3S,4S)-4-(aminocarbonyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (0.51 g, 1.14 mmol) was dissolved in methylene chloride (5 mL). HCl in dioxane (2.87 mL, 11.14 mmol) was added and the solution stirred at ambient temperature for 2 hours. The solvent was removed under reduced pressure. (0.534 g, quant.) LCMS: m/z 348.4 (MH+).

reactant | 1,1-dimethylethyl[((3S,4S)-4-(aminocarbonyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 1.14 mmol, 0.51 g | CC(C)(C)N(C([O-])=O)C[C@@H]1CN(C[C@H]1C(=O)N)CCC1=C(C=NC2=CC=C(N=C12)OC)F
reactant | HCl | Cl | ClH
reactant | dioxane | 11.14 mmol, 2.87 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (3R,4R)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinecarboxamide | NC[C@H]1[C@H](CN(C1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)C(=O)N | C17H22FN5O2
